US06713471B1
4-((±)-cis-1,2,6b,9,10,10a-hexahydro[1,4]oxazino[2,3,4-hi]pyrido[4,3-b]indol-8(7H)-yl)-1-(4-fluoro-2-hydroxyphenyl)-1-butanone
The title compound was prepared by the method of Example 361 as a yellow oil (8 mg, 17%) from (±)-cis-1,2,6b,7,8,9,10,10a-octahydro[1,4]oxazino-[2,3,4-hi]pyrido[4,3-b]indole (30 mg, 0.12 mmol) and 4-chloro-1-(4-fluoro-2-hydroxyphenyl)-1-butanone (52 mg, 0.24 mmol). 1H NMR (CDCl3, 300 MHz) δ1.85-2.13 (m, 5H), 2.25-2.47 (m, 3H), 2.63-2.95 (m, 3H), 2.99 (t, J=7.0 Hz, 2H), 3.17-3.35 (m, 3H), 4.43 (dd, J=6.9, 2.2 Hz, 2H), 6.59-6.75 (m, 5H), 7.81 (dd, J=8.7, 6.6 Hz, 1H) ppm.

reactant | (±)-cis-1,2,6b,7,8,9,10,10a-octahydro[1,4]oxazino-[2,3,4-hi]pyrido[4,3-b]indole | 0.12 mmol, 30 mg | C1COC=2C=CC=C3[C@H]4[C@@H](N1C23)CCNC4 | C13H16N2O
reactant | 4-chloro-1-(4-fluoro-2-hydroxyphenyl)-1-butanone | 0.24 mmol, 52 mg | ClCCCC(=O)C1=C(C=C(C=C1)F)O | C10H10ClFO2
product | 4-((±)-cis-1,2,6b,9,10,10a-hexahydro[1,4]oxazino[2,3,4-hi]pyrido[4,3-b]indol-8(7H)-yl)-1-(4-fluoro-2-hydroxyphenyl)-1-butanone | C1COC=2C=CC=C3[C@H]4[C@@H](N1C23)CCN(C4)CCCC(=O)C4=C(C=C(C=C4)F)O | C23H25FN2O3
